US05097023
Methyl 2,3,6-tri-O-benzyl-α-D-galactopyranoside (5 g, 10.775 mmol) was dissolved at 0° C. in a 9:1 mixture of trifluoroacetic acid and water (50 mL) [N. Morishima, S. Koto, M. Oshima, A. Sugimoto and S. Zen, Bull Chem. Soc. Jpn 56, 2849 (1983)]. The mixture was stirred overnight at 0° C. The solvents were evaporated under reduced pressure without heating. The residue was dissolved in ethyl acetate and washed successively with sodium bi-carbonate and brine. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to afford an oil. Flash chromatography on silica gel and elution with a graded mixture of ethyl acetate and hexane afforded 2,3,6-tri-O-benzyl-D-galactopyranose (3.927 g, 81%) as an oil.

reactant | Methyl 2,3,6-tri-O-benzyl-α-D-galactopyranoside | 10.775 mmol, 5 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)O)COCC1=CC=CC=C1 | C28H32O6
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 50 mL | O | H2O
product | 2,3,6-tri-O-benzyl-D-galactopyranose | 3.927 g, 81% | C(C1=CC=CC=C1)O[C@H]1C(O)O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)O)COCC1=CC=CC=C1 | C27H30O6
